US05707976
1-Chloro-2-(2,4-difluorophenyl)-3-(1,2,4-triazol-1-yl)-2-(trimethylsilyloxy) propane
4.11 g (0.02 moles) of 1,2-epoxy-2-(2,4-difluorophenyl)-3-chloropropane are reacted with 4.23 g (0.03 moles) of 1-(trimethylsilyl)-1,2,4-triazole and 0.1 g (0.001 mole) of 1,2,4-triazol-1-yl potassium in 50 ml of dimethyl formamide at 50° C. for 2 hours. Then the reaction mixture is neutralized by glacial acetic acid, mixed with 250 ml of water at room temperature and extracted twice with 50 ml of dichloromethane each. The combined extracts are washed three times with 50 ml of water each, dried over water-free sodium sulfate and evaporated in vacuo. The residue is subjected to column chromatography by the method of Example 4 above. After crystallization from n-heptane 4.9 g (71.5%) of the title compound are obtained; m.p.: 59°-61° C.

reactant | 1,2-epoxy-2-(2,4-difluorophenyl)-3-chloropropane | 0.02 moles, 4.11 g | O1CC1(CCl)C1=C(C=C(C=C1)F)F | C9H7ClF2O
reactant | 1-(trimethylsilyl)-1,2,4-triazole | 0.03 moles, 4.23 g | C[Si](N1N=CN=C1)(C)C | C5H11N3Si
reactant | 1,2,4-triazol-1-yl potassium | 0.001 mole, 0.1 g | N1(N=CN=C1)[K]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 1-Chloro-2-(2,4-difluorophenyl)-3-(1,2,4-triazol-1-yl)-2-(trimethylsilyloxy) propane | ClCC(CN1N=CN=C1)(O[Si](C)(C)C)C1=C(C=C(C=C1)F)F | C14H18ClF2N3OSi
